US07968570B2
A mixture of 5-bromo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.104 g, 0.27 mmol), 1-methyl piperazine (0.047 mL, 0.4 mmol), Pd2.dba3 (0.009 g, 0.01 mmol), BINAP (0.012 g, 0.02 mmol), and sodium tertiary-butoxide (0.040 g, 0.4 mmol) in toluene (3 mL) was heated to reflux for 3 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-(4-methyl-piperazin-1-yl)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.017 g, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.36 (s, 3H), 2:58 (m, 4H), 3.32 (m, 4H), 4.20 (s, 2H), 4.76 (s, 2H), 6.83-7.32 (m, 6H), 7.73 (d, 1H).

reactant | 5-bromo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.27 mmol, 0.104 g | BrC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H11BrF3NO2
reactant | 1-methyl piperazine | 0.4 mmol, 0.047 mL | CN1CCNCC1 | C5H12N2
reactant | BINAP | 0.02 mmol, 0.012 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tertiary-butoxide | 0.4 mmol, 0.040 g | CC(C)([O-])C.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-methyl-piperazin-1-yl)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.017 g, 41% | CN1CCN(CC1)C=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC(F)(F)F | C21H22F3N3O2
